US06537948B1
To a mixture of 0.71 g of N-[4-chloro-2-fluoro-5-{2-(methoxycarbonyl)methoxy-3-pyridyloxy}phenyl]trifluoroacetoacetamide and 2 ml of acetic acid, 0.33 g of potassium cyanate was added, and the mixture was stirred at 50° C. for 1 hour, then, at 110° C. for 1.5 hours. After cooling, water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate solution, and saturated saline, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.30 g of 3-{2-chloro-4-fluoro-5-[2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-(methoxycarbonyl)methoxypyridine.

reactant | N-[4-chloro-2-fluoro-5-{2-(methoxycarbonyl)methoxy-3-pyridyloxy}phenyl]trifluoroacetoacetamide | 0.71 g | ClC1=CC(=C(C=C1OC=1C(=NC=CC1)OCC(=O)OC)NC(CC(=O)C(F)(F)F)=O)F | C18H13ClF4N2O6
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | potassium cyanate | 0.33 g | [O-]C#N.[K+]
solvent | water | O | H2O
product | 3-{2-chloro-4-fluoro-5-[2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-(methoxycarbonyl)methoxypyridine | 0.30 g | ClC1=C(OC=2C(=NC=CC2)OCC(=O)OC)C=C(C(=C1)F)N1C(NC(=CC1=O)C(F)(F)F)=O | C19H12ClF4N3O6
